US08957068B2
A solution of 4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzaldehyde (71 mg, 0.2 mmol) and tert-butyl 2,2-dimethylpiperazine-1-carboxylate (47.1 mg, 0.22 mmol) in MeOH (4 mL) was added acetic acid (14.4 mg, 0.24 mmol) and 5-Ethyl-2-methylpyridine borane complex (27 mg, 0.2 mmol, sigma aldrich). The solution was stirred at 50° C. for 4 h then 5 drops of water was added. The solution was stirred at room temperature for another 2 h then diluted with EtOAc (10 mL) and washed with water (10 mL). After separation, the aqueous phase was extracted with EtOAc (3×10 mL). Combined organics were dried over Na2SO4, filtered and concentrated. The crude material was purified through Silica gel column chromatography (MeOH/EtOAc 0 to 10%) to give tert-butyl 4-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)-2,2-dimethylpiperazine-1-carboxylate as a white solid (80 mg, 72.4% yield).

reactant | 4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzaldehyde | 0.2 mmol, 71 mg | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(C=O)C=C1 | C19H22N4O3
reactant | tert-butyl 2,2-dimethylpiperazine-1-carboxylate | 0.22 mmol, 47.1 mg | CC1(N(CCNC1)C(=O)OC(C)(C)C)C | C11H22N2O2
reactant | acetic acid | 0.24 mmol, 14.4 mg | C(C)(=O)O | C2H4O2
solvent | MeOH | 4 mL | CO | CH4O
catalyst | water | 5 drops | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-(4-((S)-1-(4-((S)-4-isopropyl-2-oxooxazolidin-3-yl)pyrimidin-2-ylamino)ethyl)benzyl)-2,2-dimethylpiperazine-1-carboxylate | 80 mg, 72.4% yield | C(C)(C)[C@@H]1N(C(OC1)=O)C1=NC(=NC=C1)N[C@@H](C)C1=CC=C(CN2CC(N(CC2)C(=O)OC(C)(C)C)(C)C)C=C1 | C30H44N6O4
